US08242145B2
Step 3: {4-Benzyloxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid
To {4-benzyloxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid benzyl ester (0.05 g, 0.07 mmol) in MeOH (3 mL) was added 1N aqueous lithium hydroxide (1 mL), and the reaction was stirred at 65° C. overnight. The mixture was then acidified with 1N aqueous HCl, and the aqueous layer was extracted twice with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the desired product.

reactant | {4-benzyloxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid benzyl ester | 0.07 mmol, 0.05 g | C(C1=CC=CC=C1)OC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C40H34F3NO6
reactant | lithium hydroxide | 1N, 1 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 3 mL | CO | CH4O
product | {4-Benzyloxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C33H28F3NO6
